US07235581B2
a) 1-(4-Fluorobenzyloxy)-4-nitro-benzene
The title compound is prepared in analogy to Example 3a) from 4-fluorobenzyl alcohol and 4-fluoro-nitrobenzene. Yield: 86% of a yellowish solid. Mp=124–126° C.

reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 4-fluoro-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-(4-Fluorobenzyloxy)-4-nitro-benzene | FC1=CC=C(COC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H10FNO3
